US08202873B2
(2-{4-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethyl)-methyl-amine dihydrochloride
Dissolve 3′-(4-fluoro-phenyl)-4-(1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.450 g, 1.33 mmol) in acetonitrile (3 mL) and add solid sodium hydroxide (0.186 g, 4.65 mmol). After 30 min. add (2-chloro-ethyl)-methyl-amine hydrochloride (0.190 g, 1.46 mmol) and tetrabutylammonium bisulfate (18 mg, 0.0531 mmol) then reflux the mixture for 20 hr. Cool and filter the mixture then evaporate. Purify using silica gel chromatography, eluting with 6:94 2N ammonia in methanol:DCM to give a yellow oil. Dissolve the solid in methanol and add ammonium chloride then sonicate the mixture for 10 min. Evaporate the solution to give the title compound as a white solid (0.139 g, 23%). MS (ES): m/z=396 [M+H]+.

reactant | 3′-(4-fluoro-phenyl)-4-(1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.33 mmol, 0.450 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NNC1 | C18H19FN6
reactant | sodium hydroxide | 4.65 mmol, 0.186 g | [OH-].[Na+]
reactant | (2-chloro-ethyl)-methyl-amine hydrochloride | 1.46 mmol, 0.190 g | Cl.ClCCNC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | tetrabutylammonium bisulfate | 0.0531 mmol, 18 mg | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methanol | CO | CH4O
product | (2-{4-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethyl)-methyl-amine dihydrochloride | 0.139 g, 23% | Cl.Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)CCNC | InChI=1S/C21H26FN7.2ClH/c1-23-8-9-29-16-17(14-26-29)15-27-10-12-28(13-11-27)21-20(24-6-7-25-21)18-2-4-19(22)5-3-18;;/h2-7,14,16,23H,8-13,15H2,1H3;2*1H
